US04038396
2-Phenyl-5-Benzoylaminothiazolo[4,5-b]pyridine
A mixture of 2.0 g. of 2,6-diamino-3-mercaptopyridine and 15 g. of benzoic anhydride is heated to reflux temperature for 10 minutes. After cooling somewhat, the still liquid mixture is poured into 300 ml. of benzene. The benzene solution is extracted with 4 × 10 ml. of 6 N hydrochloric acid. The combined acid solution is then made basic with sodium hydroxide to precipitate 2-phenyl-5-benzoylaminothiazolo[4,5-b]pyridine which is recrystallized from ethanol.

reactant | 2,6-diamino-3-mercaptopyridine | NC1=NC(=CC=C1S)N | C5H7N3S
reactant | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Phenyl-5-Benzoylaminothiazolo[4,5-b]pyridine | C1(=CC=CC=C1)C=1SC=2C(=NC(=CC2)NC(C2=CC=CC=C2)=O)N1 | C19H13N3OS
